US08071807B2
Step 9: {3-[4-Amino-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-5-chloro-phenyl}-acetic acid methyl ester
{3-Chloro-5-[4-nitro-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-phenyl}-acetic acid methyl ester (0.07 g, 0.16 mmol), 1,1-dimethylhydrazine (0.08 mL, 1.09 mmol), ferric chloride (0.003 g, 0.02 mmol), and DARCO (0.016 g) were combined in EtOH and stirred at 65° C. for 30 hours. After work-up with EtOAc and H2O, the crude material was purified by silica gel chromatography to give the title compound.

reactant | {3-Chloro-5-[4-nitro-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-phenyl}-acetic acid methyl ester | 0.16 mmol, 0.07 g | COC(CC1=CC(=CC(=C1)OC1=C(C=C(C=C1)[N+](=O)[O-])CSCC(F)(F)F)Cl)=O | C18H15ClF3NO5S
reactant | 1,1-dimethylhydrazine | 1.09 mmol, 0.08 mL | CN(N)C | C2H8N2
reactant | DARCO | 0.016 g | C | CH4
solvent | EtOH | CCO | C2H6O
product | {3-[4-Amino-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-5-chloro-phenyl}-acetic acid methyl ester | COC(CC1=CC(=CC(=C1)Cl)OC1=C(C=C(C=C1)N)CSCC(F)(F)F)=O | C18H17ClF3NO3S
